US05270309
Treatment of 2-(1-pyrrolidinyl)ethyl 4-benzyloxy-5,7-dichloroquinoline-2-carboxylate (0.65 g) with hydrogen bromide in acetic acid (5 ml, 48%) as described in Example 33d gave 2-(1-pyrrolidinyl)ethyl 5,7-dichloro-4-oxo-1,4-dihydroquinoline-2-carboxylate hydrobromide (0.3 g), m.p. 258° C. (dec). δ (250 MHz, DMSO-d6) 2.04 (4H, m, pyrrolidine-3,4-H), 3.18 (2H, m, CH2N) 3.68 (4H, m, pyrrolidine-2.5-H), 4.68 (2H, t, CO2CH2), 6.91 (1H, s, 3-H), 7.46 (1H, d, 6-H), 8.08 (1H, d, 8-H), 9.90 (2H, vbs, NH). (Found: C, 41.24; H, 3.68; N, 6.03%. C16H16Cl2N2O3. 1.35HBr requires C, 41.38; H, 3.76; N, 6.03%).

reactant | 2-(1-pyrrolidinyl)ethyl 4-benzyloxy-5,7-dichloroquinoline-2-carboxylate | 0.65 g | C(C1=CC=CC=C1)OC1=CC(=NC2=CC(=CC(=C12)Cl)Cl)C(=O)OCCN1CCCC1 | C23H22Cl2N2O3
reactant | hydrogen bromide | Br | BrH
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 2-(1-pyrrolidinyl)ethyl 5,7-dichloro-4-oxo-1,4-dihydroquinoline-2-carboxylate hydrobromide | 0.3 g | Br.ClC1=C2C(C=C(NC2=CC(=C1)Cl)C(=O)OCCN1CCCC1)=O | InChI=1S/C16H16Cl2N2O3.BrH/c17-10-7-11(18)15-12(8-10)19-13(9-14(15)21)16(22)23-6-5-20-3-1-2-4-20;/h7-9H,1-6H2,(H,19,21);1H
